US04096267
Step A: 2-Methyl-2-(4-nitrophenyl)-5-methoxy-6,7-dichloro-1-indanone
Amyl nitrate (40 ml.) is added in 10 ml. increments at two hour intervals to 2-methyl-2-phenyl-5-methoxy-6,7-dichloro-1-indanone (9.36 g., 0.03 mole) in polyphosphoric acid (150 g.) at 50°-60° C. with stirring. The total heating period is 8 hours. The reaction mixture is treated with crushed ice-water to precipitate 4.82 g. of 2-methyl-2-(4-nitrophenyl)-5-methoxy-6,7-dichloro-1-indanone which melts at 179°-180° C. after crystallization from butyl chloride.

reactant | 2-methyl-2-phenyl-5-methoxy-6,7-dichloro-1-indanone | 0.03 mole, 9.36 g | CC1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C1=CC=CC=C1 | C17H14Cl2O2
reactant | Amyl nitrate | 40 ml | [N+](=O)(OCCCCC)[O-] | C5H11NO3
product | 2-Methyl-2-(4-nitrophenyl)-5-methoxy-6,7-dichloro-1-indanone | CC1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C17H13Cl2NO4
